US05393875
A solution of 1.0 g (2.56 mmol) of benzyl rac-α-[[(2-hydroxy-1,1-dimethylethyl)sulfonyl]methyl]hydrocinnamate and 0.97 g (10.24 mmol) of isopropyl isocyanate in 20 ml of dry toluene was heated to 100o for 4 hours. Subsequently, the reaction solution was evaporated under reduced pressure. The benzyl rac-α-[[[2-[(isopropylcarbamoyl)oxy]-1,1-dimethylethyl]sulfonyl]methyl]hydrocinnamate was obtained in quantitative yield as a yellowish oil, MS: 384 (M-benzyl)+.

reactant | benzyl rac-α-[[(2-hydroxy-1,1-dimethylethyl)sulfonyl]methyl]hydrocinnamate | 2.56 mmol, 1.0 g | OCC(C)(C)S(=O)(=O)CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C21H26O5S
reactant | isopropyl isocyanate | 10.24 mmol, 0.97 g | C(C)(C)N=C=O | C4H7NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl rac-α-[[[2-[(isopropylcarbamoyl)oxy]-1,1-dimethylethyl]sulfonyl]methyl]hydrocinnamate | quantitative yield | C(C)(C)NC(=O)OCC(C)(C)S(=O)(=O)CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C25H33NO6S
